US08445510B2
tert-Butyl 5-bromo-3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridine-1-carboxylate
A mixture of tert-butyl 5-bromo-3-[(1S)-1-(2-chloro-3-fluoro-6-hydroxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (1.00 g, 2.13 mmol), chlorodifluoroacetic acid ethyl ester (2.700 mL, 21.29 mmol), K2CO3 (882.7 mg, 6.387 mmol) and DMF (40 mL, 500 mmol) was heated to 70° C. for 6 h in a sealed tube. The material was extracted with EtOAc, and washed with water (3×). The organic layer was purified via column chromatography, eluting with 3-10% EtOAc/hexanes. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a light yellow solid. 1H NMR (400 MHz, CD3OD): δ=1.67-1.69 (m, 9H), 1.80 (d, J=7.1 Hz, 3H), 4.94-5.03 (m, 1H), 6.63 (s, 1H), 7.15 (dd, J=9.1, 4.5 Hz, 1H), 7.22-7.28 (m, 1H), 7.55 (d, J=2.0 Hz, 1H), 7.70 (d, J=1.5 Hz, 1H), 8.34 (d, J=2.0 Hz, 1H). MS (ES+): m/z=519.03/521.03 (75/100) [MH+]. HPLC: tR=1.93 min (polar—3 min, UPLC-ACQUITY).

reactant | tert-butyl 5-bromo-3-[(1S)-1-(2-chloro-3-fluoro-6-hydroxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 2.13 mmol, 1.00 g | BrC=1C=C2C(=NC1)N(C=C2[C@H](C)C2=C(C(=CC=C2O)F)Cl)C(=O)OC(C)(C)C | C20H19BrClFN2O3
reactant | chlorodifluoroacetic acid ethyl ester | 21.29 mmol, 2.700 mL | C(C)OC(C(F)(F)Cl)=O | C4H5ClF2O2
reactant | K2CO3 | 6.387 mmol, 882.7 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 500 mmol, 40 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 5-bromo-3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | BrC=1C=C2C(=NC1)N(C=C2[C@H](C)C2=C(C(=CC=C2OC(F)F)F)Cl)C(=O)OC(C)(C)C | C21H19BrClF3N2O3
